US08461134B2
2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetamide
A mixture of methyl 2-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate (0.5 g, 0.001 mol) and aq. NH3.H2O (28%, 10 mL) in CH3OH was stirred at 50° C. over night. The mixture was concentrated and the residue dissolved in ethyl acetate and washed with brine, dried and concentrated, purified by column chromatography (PE:EA 5:1˜1:3) to give the title compound, which was dissolved in MeCN, acidified with aq. HCl and freeze-dried to give the product as hydrochloride salt (200 mg, yield 53%). 1HNMR DMSO-d6 400 MH. δ9.85 (s, 1H), 9.17 (s, 1H), 7.43-6.32 (m, 6H), 5.92 (s, 2H), 4.86 (s, 2H), 3.74 (s, 2H). LC-MS m/z 360 (M−H, negative); HPLC purity: 96.93% (220 nm), 99.27% (254 nm).

reactant | methyl 2-(2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate | 0.001 mol, 0.5 g | OB1OCC2=C1C=C(C=C2)NS(=O)(=O)C2=C(C=C(C=C2)NC(C(F)(F)F)=O)CC(=O)OC | C18H16BF3N2O7S
reactant | NH3.H2O | 10 mL | N.O
solvent | CH3OH | CO | CH4O
product | 2-(5-Amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetamide | NC=1C=CC(=C(C1)CC(=O)N)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H16BN3O5S
